US06696450B2
1-Methyl-cyclohexanecarboxylic acid {(1R)-1-cyclohexylmethyl-2-[4-(2-hydroxy-phenyl)-piperazin-1-yl]-ethyl}-amide
A solution of 1-methylcyclohexanecarbonyl chloride, triethylamine and {(1R)-1-cyclohexylmethyl-2-[4-(2-hydroxyphenyl)-piperazin-1-yl]-ethyl}-amine is stirred at 0° C. under a nitrogen atmosphere for 1 hour. The mixture is then concentrated on a rotary evaporator and partitioned between ethyl acetate and saturated aqueous NaHCO3. The combined organic layers are washed with brine, dried and concentrated on a rotary evaporator to yield the desired product, which is purified by chromatography on alumina.

reactant | 1-methylcyclohexanecarbonyl chloride | CC1(CCCCC1)C(=O)Cl | C8H13ClO
reactant | {(1R)-1-cyclohexylmethyl-2-[4-(2-hydroxyphenyl)-piperazin-1-yl]-ethyl}-amine | C1(CCCCC1)C[C@H](CN1CCN(CC1)C1=C(C=CC=C1)O)N | C19H31N3O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-Methyl-cyclohexanecarboxylic acid {(1R)-1-cyclohexylmethyl-2-[4-(2-hydroxy-phenyl)-piperazin-1-yl]-ethyl}-amide | C1(CCCCC1)C[C@H](CN1CCN(CC1)C1=C(C=CC=C1)O)NC(=O)C1(CCCCC1)C | C27H43N3O2
